US07834063B2
B. N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-propylglycine
Synthesized as described in Example 70B using 4-(propylamino)-2-(trifluoromethyl)benzonitrile and 1,1-dimethylethyl bromoacetate: 1H NMR (400 MHz, CDCl3) δ 7.61 (d, J=8.7 Hz, 1H), 6.87 (d, J=2.6 Hz, 1H), 6.71 (dd, J=8.8, 2.6 Hz, 1H), 4.18 (s, 2H), 3.41 (t, J=7.7 Hz, 2H), 1.68 (m, 2H), 0.98 (t, J=7.5 Hz, 3H).

reactant | 4-(propylamino)-2-(trifluoromethyl)benzonitrile | C(CC)NC1=CC(=C(C#N)C=C1)C(F)(F)F | C11H11F3N2
reactant | 1,1-dimethylethyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | N-[4-Cyano-3-(trifluoromethyl)phenyl]-N-propylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CCC)C(F)(F)F | C13H13F3N2O2
